US05654315
4-Biphenylcarboxaldehyde (160 mg) and 3-aminoquinuclidine (110 mg) were heated under reflux in toluene (50 ml) for 2 hours using a Dean and Stark water separator. The toluene was evaporated and the residue was purified by medium pressure column chromatography on alumina (ICN Alumina N 32-63), eluting with ethyl acetate to give 3-[(biphenyl-4-ylmethylene)amino]quinuclidine (150 mg) as a colourless solid, m.p. 82°-84° C.; microanalysis, found: C, 82.2; H, 7.7; N, 9.6%; C20H22N2 requires: C, 82.7; H, 7.6; N, 9.6%; NMR (CDCl3): 1.35-1.5(1H, m), 1.6-1.8(3H, m), 2.2-2.3(1H, m), 2.8-3.0(4H, m), 3.0-3.2(2H, m), 3.4-3.5(1H, m), 7.3-7.5(3H, m), 7.55-7.65(4H, m), 7.8(2H, dd) and 8.3(1H, s); m/z 291 (M+H).

reactant | 4-Biphenylcarboxaldehyde | 160 mg | C1(=CC=C(C=C1)C=O)C1=CC=CC=C1 | C13H10O
reactant | 3-aminoquinuclidine | 110 mg | NC1CN2CCC1CC2 | C7H14N2
reactant | water | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[(biphenyl-4-ylmethylene)amino]quinuclidine | 150 mg | C1(=CC=C(C=C1)C=NC1CN2CCC1CC2)C2=CC=CC=C2 | C20H22N2
